US07989637B2
5-[5-(1-Methoxy-ethyl)-[1,2,4]triazol-1-yl]-4′-methyl-biphenyl-3-carboxylic acid methyl ester was hydrolysed with LiOH following the procedure of step 2, Example 8, to give 5-[5-(1-methoxy-ethyl)-[1,2,4]triazol-1-yl]-4′-methyl-biphenyl-3-carboxylic acid.

reactant | 5-[5-(1-Methoxy-ethyl)-[1,2,4]triazol-1-yl]-4′-methyl-biphenyl-3-carboxylic acid methyl ester | COC(=O)C=1C=C(C=C(C1)N1N=CN=C1C(C)OC)C1=CC=C(C=C1)C | C20H21N3O3
reactant | LiOH | [Li+].[OH-]
product | 5-[5-(1-methoxy-ethyl)-[1,2,4]triazol-1-yl]-4′-methyl-biphenyl-3-carboxylic acid | COC(C)C1=NC=NN1C=1C=C(C=C(C1)C1=CC=C(C=C1)C)C(=O)O | C19H19N3O3
